US04092319
A. 11-(carboxymethylthio)undecanoylmorpholine
5 g (.02 mole) of 10-undecenoylmorpholine and 2.3 g (.025 mole) of mercaptoacetic acid were placed in a flask equipped with stirring bar. The temperature was raised to 60° C and maintained there for two hours with stirring. The excess mercaptoacetic acid was removed by distillation at reduced pressure and water washings.

reactant | 10-undecenoylmorpholine | .02 mole, 5 g | C(CCCCCCCCC=C)(=O)N1CCOCC1 | C15H27NO2
reactant | mercaptoacetic acid | .025 mole, 2.3 g | SCC(=O)O | C2H4O2S
product | 11-(carboxymethylthio)undecanoylmorpholine | C(=O)(O)CSCCCCCCCCCCC(=O)N1CCOCC1 | C17H31NO4S
